US04857543
15% Hydrogen chloride/methanol solution (12 ml) is added to 1-ethyl-3-(3,4,5-trimethoxyphenylthio)-1-(2-thienyl)propyl isocyanide (2.3 g) under ice-cooling and the mixture is stirred at room temperature for 3 hours. The mixture is concentrated under reduced pressure to remove solvent and the residue is adjusted to pH 10 with an aqueous potassium carbonate solution. The aqueous mixture is extracted with ethyl acetate and the extract is washed with an aqueous saturated sodium chloride solution, dried and then concentrated to remove solvent. The residue is purified by silica gel column chromatography (solvent, n-hexane:ethyl acetate=4:1), whereby 1-ethyl-3-(3,4,5-trimethoxyphenylthio)-1-(2-thienyl)propylamine (1.9 g) is obtained as colorless oil.

reactant | Hydrogen chloride methanol | 12 ml | Cl.CO
reactant | 1-ethyl-3-(3,4,5-trimethoxyphenylthio)-1-(2-thienyl)propyl isocyanide | 2.3 g | C(C)C(CCSC1=CC(=C(C(=C1)OC)OC)OC)(C=1SC=CC1)[N+]#[C-] | C19H23NO3S2
product | 1-ethyl-3-(3,4,5-trimethoxyphenylthio)-1-(2-thienyl)propylamine | 1.9 g, Yield: 84.9% | C(C)C(CCSC1=CC(=C(C(=C1)OC)OC)OC)(C=1SC=CC1)N | C18H25NO3S2
